US08247403B2
8-[(3R)-3-methylmorpholin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A mixture of tert-butyl 8-[(3R)-3-methylmorpholin-4-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (460 mg, 1.32 mmol), ethyl acetate (4 ml) and 4N hydrogen chloride-ethyl acetate solution (8 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (320 mg, 75.5%) as a solid.

reactant | tert-butyl 8-[(3R)-3-methylmorpholin-4-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.32 mmol, 460 mg | C[C@H]1N(CCOC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 8 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 8-[(3R)-3-methylmorpholin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 320 mg, 75.5% | Cl.Cl.C[C@H]1N(CCOC1)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C14H20N2O2.2ClH/c1-11-10-17-7-5-16(11)13-3-2-12-9-15-4-6-18-14(12)8-13;;/h2-3,8,11,15H,4-7,9-10H2,1H3;2*1H/t11-;;/m1../s1
